US05384309
N-(N-t-Butoxycarbonyl(g-p-toluenesulfonyl)arginyl) glycine
N-t-Butoxycarbonyl-g-p-toluenesulfonylarginine (10 mmoles), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP, 10 mmoles), ethyl glycinate hydrochloride (13 mmoles) and N-methylmorpholine (50 mmoles) are stirred in a mixture of dichloromethane and dimethylacetamide (1:1, 50 ml) for 2 hr at room temperature. At the end of the reaction time the mixture is acidified with acetic acid, concentrated in vacuo, and the residue taken up in ethyl acetate. The resulting solution is washed with 10% citric acid (3 times), water (2 times), saturated sodium bicarbonate (3 times), water (2 times) and brine (2 times). The organic solution is dried over magnesium sulfate, filtered, dried and concentrated to afford the crude ethyl ester of the title compound. Crystalline material can be obtained from ethyl acetate-hexane mixtures.

reactant | N-t-Butoxycarbonyl-g-p-toluenesulfonylarginine | 10 mmoles | C(C)(C)(C)OC(=O)N[C@@H](CC(CNC(N)=N)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C18H28N4O6S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 10 mmoles | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ethyl glycinate hydrochloride | 13 mmoles | Cl.NCC(=O)OCC
reactant | N-methylmorpholine | 50 mmoles | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(N-t-Butoxycarbonyl(g-p-toluenesulfonyl)arginyl) glycine | C(C)(C)(C)OC(=O)N[C@@H](CC(CNC(N)=N)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)NCC(=O)O | C20H31N5O7S
